US08193164B2
Intermediate XA {3-[9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(2-hydroxy-acetylamino)-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purin-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester
N-{(1S,2R,3S,4R)-4-[6-((S)-1-Benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide (Intermediate GC) (1 eq.), prop-2-ynyl-carbamic acid tert-butyl ester (10 eq.), CuI (0.25 eq.), bis(triphenylphosphine)-palladium(II) chloride (0.25 eq.) and triphenylphosphine (0.5 eq.) are dissolved in diethylamine and DMF. The reaction mixture is heated in a microwave for 1 hour at 120° C. The title compound is obtained by column chromatography.

reactant | N-{(1S,2R,3S,4R)-4-[6-((S)-1-Benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | 1 eq. | C(C1=CC=CC=C1)[C@@H](CO)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O | C21H25ClN6O5
reactant | prop-2-ynyl-carbamic acid tert-butyl ester | 10 eq. | C(C)(C)(C)OC(NCC#C)=O | C8H13NO2
reactant | triphenylphosphine | 0.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | diethylamine | C(C)NCC | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | CuI | 0.25 eq. | [Cu]I
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.25 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | {3-[9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(2-hydroxy-acetylamino)-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purin-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO)=O | C29H37N7O7
